US05650524
e) 3-Cyano-8-fluoro-5-methoxy-2-H-chromen
Crude 3-fluoro-hydroxy-6-methoxybenzaldehyde (8.0 g) from above, acrylonitrile (13 mL; 193 mmol) and 1.4.diazadicyclo [2,2,2] octane (0.66 g; 5.9 mmol) were refluxed in a three-necked round-bottom flask (50 mL) under nitrogen for 4 h. Rotary-evaporation of the volatiles left a thick, red oil which was flash-chromatographed on a silica column eluted with methylene chloride/n-hexane (4:5). Concentration of relevant fractions gave an impure product (91% GC) which was crystallized form EtOAc to give 1.31 g of the title compound as colourless bars. Mp. 133°-135° C.

reactant | 3-fluoro-hydroxy-6-methoxybenzaldehyde | 8.0 g | FC=1C(=C(C=O)C(=CC1)OC)O | C8H7FO3
reactant | acrylonitrile | 193 mmol, 13 mL | C(C=C)#N | C3H3N
reactant | octane | 5.9 mmol, 0.66 g | CCCCCCCC | C8H18
product | 3-Cyano-8-fluoro-5-methoxy-2-H-chromen | 1.31 g | C(#N)C=1COC2=C(C=CC(=C2C1)OC)F | C11H8FNO2
